US07229999B2
cis-5-(4-Chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 102, using 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester, 1-methyl-1H-imidazole-2-methanol, (4-chloro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol as starting materials to yield racemic cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinamide, MS (ISP) 455.3 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)Cl | C7H5BrClNO2
reactant | 1-methyl-1H-imidazole-2-methanol | CN1C(=NC=C1)CO | C5H8N2O
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
product | racemic cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@H]2[C@H](CCCC2)O)C1)OCC=1N(C=CN1)C | C24H27ClN4O3
